US08791149B2
1-(4-azidophenylamino)-3-(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol
4-Azidoaniline (0.038 g, 0.283 mmol) was added to a solution of 3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole (0.100 g, 0.262 mmol) in THF (0.10 mL). LiBr (0.001 g, 0.013 mmol) was added and the reaction was stirred at room temperature for 3 days. The reaction was purified directly by chromatography (SiO2, 0-25% EtOAc/Hexane) to afford the desired product (31 mg, 23%).

reactant | 4-Azidoaniline | 0.283 mmol, 0.038 g | N(=[N+]=[N-])C1=CC=C(N)C=C1 | C6H6N4
reactant | 3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole | 0.262 mmol, 0.100 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1OC1 | C15H11Br2NO
reactant | LiBr | 0.013 mmol, 0.001 g | [Li+].[Br-]
solvent | THF | 0.10 mL | C1CCOC1 | C4H8O
product | 1-(4-azidophenylamino)-3-(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol | 31 mg, 23% | N(=[N+]=[N-])C1=CC=C(C=C1)NCC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br)O | C21H17Br2N5O
